US07449576B1
Synthesis of 2-(3-Amino-4-chloro-5-methyl-pyrazol-1-yl)-1-[4-(4-fluorophenyl)-piperazin-1-yl]-ethanone
Protocol T was followed using 4-Chloro-5-methyl-1H-pyrazol-3-ylamine, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=1/4) afforded the title compound as colorless oil. 1H NMR (400 MHz, CDCl3): 7.02-7.08 (m, 2H), 6.94-7.0 (t, 2H), 4.85 (s, 2H), 4.2 (s, 2H), 3.80-3.88 (m, 4H), 3.14-3.34 (m, 4H), 2.34 (s, 3H). MS (ES) M+H expected 317.37, found 318.1. MS (ES) M+H expected 351.81, found 352.1.

reactant | 4-Chloro-5-methyl-1H-pyrazol-3-ylamine | ClC=1C(=NNC1C)N | C4H6ClN3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(3-Amino-4-chloro-5-methyl-pyrazol-1-yl)-1-[4-(4-fluorophenyl)-piperazin-1-yl]-ethanone | NC1=NN(C(=C1Cl)C)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C16H19ClFN5O
